US09227976B2
4-chloro-3-(1-methyl-1H-pyrazol-4-yl)-1-(2-(4-methylpiperazin-1-yl)ethyl)-5-phenyl-1H-pyrazolo[3,4-c]pyridazine (Compound Ic)
A solution of 4-chloro-3-iodo-5-phenyl-1H-pyrazolo[3,4-c]pyridazine and 4-chloro-5-phenyl-1H-pyrazolo[3,4-c]pyridazine (9:1, 1.4 g), 2-(4-methylpiperazin-1-yl)ethanol (1.13 g, 7.8 mmol), diethyl azodicarboxylate (1.37 g, 7.8 mmol) and triphenyl phosphine (2.07 g, 7.9 mmol) in 1,4-dioxane (26 mL) was heated to 85° C. for 1 h and then cooled to room temperature and concentrated in vacuo. The residue was partially purified by column chromatography (silica gel, starting with iso-hexanes/ethyl acetate 1:0 to 0:1 and finishing with ethyl acetate/4 M NH3 in MeOH 1:0 to 9:1). The residue was purified by preparative HPLC to provide Compounds Ia, Ib, and 20.

reactant | 4-chloro-3-iodo-5-phenyl-1H-pyrazolo[3,4-c]pyridazine | ClC1=C2C(=NN=C1C1=CC=CC=C1)NN=C2I | C11H6ClIN4
reactant | 4-chloro-5-phenyl-1H-pyrazolo[3,4-c]pyridazine | 1.4 g | ClC1=C2C(=NN=C1C1=CC=CC=C1)NN=C2 | C11H7ClN4
reactant | 2-(4-methylpiperazin-1-yl)ethanol | 7.8 mmol, 1.13 g | CN1CCN(CC1)CCO | C7H16N2O
reactant | diethyl azodicarboxylate | 7.8 mmol, 1.37 g | N(=NC(=O)OCC)C(=O)OCC | C6H10N2O4
reactant | triphenyl phosphine | 7.9 mmol, 2.07 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
solvent | 1,4-dioxane | 26 mL | O1CCOCC1 | C4H8O2
product | 4-chloro-3-(1-methyl-1H-pyrazol-4-yl)-1-(2-(4-methylpiperazin-1-yl)ethyl)-5-phenyl-1H-pyrazolo[3,4-c]pyridazine | ClC1=C2C(=NN=C1C1=CC=CC=C1)N(N=C2C=2C=NN(C2)C)CCN2CCN(CC2)C | C22H25ClN8
